US07648985B2
(i) N-(2-Bromo-ethyl)-4-fluoro-benzenesulfonamide
4-Fluoro benzene sulfonyl chloride (8 g, 0.0411 mol) was added dropwise at 0° C. to a solution of 2-bromoethylamine hydrogen bromide (10.27 g, 0.0501 mol) and triethyl amine (14.3 ml, 0.1029 mol) in dry dichloromethane (100 ml) and stirred at room temperature for 1 h under nitrogen atmosphere. The reaction mixture was diluted with water and extracted with ethyl acetate. Organic layer was washed with water and brine and dried over sodium sulfate. Solvent evaporation under reduced pressure afforded the sub-title product as a liquid. Yield: 11 g

reactant | 4-Fluoro benzene sulfonyl chloride | 0.0411 mol, 8 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 2-bromoethylamine hydrogen bromide | 0.0501 mol, 10.27 g | Br.BrCCN
reactant | triethyl amine | 0.1029 mol, 14.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(2-Bromo-ethyl)-4-fluoro-benzenesulfonamide | BrCCNS(=O)(=O)C1=CC=C(C=C1)F | C8H9BrFNO2S
